Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lethargy, hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with trigeminal neuralgia after dx of V1-V2 shingles (s/p 7 
days valacyclovir treatment and pred taper), started on 
oxcarbazepine last ___ and increased dosing over the 
week due to severe symptoms, now presenting from clinic with 
hyponatremia. 

States that ___ called for refill of medications, at that time 
her neurologist notes that "she tolerates medication fine: 
Trileptal 150 mg three times a day, gabapentin 300 mg three 
times a day. She still suffers from intractable attack so sharp 
pain (attackes per day), but last less short time. She is going 
to increase dosage to to Trileptal 150 mg 2 tab three times a 
day q8hours. I discussed dizziness hyponatremia side effects."

Since then patient states that for approximately ___ days she 
has had poor thought process (concerning given her job as 
___, lost appetite, unsteady gait - 
not dizzy but sluggish, poor memory. ___ called Dr. ___ 
and noted that while she was endorsing the aforementioned 
symptoms her attacks were reduced from ___ attacks to ___ and 
were shorter in duration (~3min). Told to continue medication at 
current dose and ___ checked including trileptal level. ___ 
sx of confusion "foggy" worse. On lab check on morning of 
admission found to be significantly hyponatremic to 121 and 
referred to ___ ED by Dr. ___. Patient states prior to ED 
presentation Re: oxcarb, missed 6pm dose of 3 tablets (6pm and 
9pm).

Notably, if possible Dr. ___ that she continue current 
trileptal given success at previously debilitating sx control 
and to attempt control of Na.  

In the ED:
Vitals:  98.3 66 113/71 18 97% RA  
 
Exam notable for:  
Currently sitting with ice pack on head to prophylax an event. 
Some redness over left forehead and eyelid (per pt due to prior 
shingles)
Essential tremor, worse on left side
Nonpitting edema ___
CTAB
A&Ox3
Face grossly symmetric, moving all limbs with purpose
Missing some aspects of story per husband

- ___ were notable for
Na 120 --> 130
Serum osms 255
Urine osms 330
Urine urine Na 65, Cr 50

- Studies performed include
None

- Patient was given 
Baclofen 10mg x3
APAP 100mg
Gabapentin 100mg x3
NS
APAP 650 x2
Ibuprofen 400mg 

- Vitals on transfer:   98.2 133 / 80 62 18 97 RA  

Upon arrival to the floor, the patient endorses history of 
recent headaches in addition to the history above. She notes she 
had a trigeminal neuralgia attack in the ED, which lasted 3 
minutes and resolved with ice packs. 

She denies vision changes, neck pain, chest pain, dyspnea, 
abdominal pain, n/v. One episode of diarrhea ___ but none 
before or after. No melena or hematochezia. No dysuria, urinary 
frequency. 
 
Past Medical History:
-Osteoporosis c/b compression fracture of L3 lumbar vertebra 
-Tremor, essential 
-Esophageal reflux - diet controlled
-TIA (transient ischemic attack) ___, no residual defects 
(also questioned if this was migrane w/aura; on ASA)
-Herpes zoster ophthalmicus c/b trigeminal neuralgia of left V1, 
___
 
Social History:
___
Family History:
Brother  Cancer(2); Cancer - Prostate; Colon Polyp 
Father  ___ 
Mother  Cancer - Colon; Cancer - Ovarian; Thyroid Disorder 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
Vitals-  98.2 133 / 80 62 18 97 RA  
GENERAL: AOx3, NAD  
HEENT: EOMI, PERRLA. Ptosis and eyelid swelling on L. Sclera 
without injection. Moist mucous membranes. 
CARDIAC: RRR no m/g/r. No JVD
LUNGS: CTA B/L. No wheeze/crackles. 
ABDOMEN: +BS, NTND to palpation. 
EXTREMITIES: No edema. WWP. Symmetric in appearance. Pulses 
DP/Radial 2+ bilaterally.  No tenderness to calf squeeze.
NEUROLOGIC: 
AOx3, completes days of week backwards without difficulty 
CN2-12 intact except decreased sensation in V1 and V2 on L.
___ strength througout. Normal sensation. No dysmetria.  
Skin: Mild erythema of left V1 and V2 distributions, mildly 
tender to palpation, no vesicles. 

DISCHARGE PHYSICAL EXAM:
===========================
Vitals- 97.9 114 / 72 65 18 95 Ra 
GENERAL: AOx3, NAD  
HEENT: EOMI, PERRLA. Ptosis and eyelid swelling on L. Sclera
without injection. Moist mucous membranes. 
CARDIAC: RRR no m/g/r. No JVD
LUNGS: CTA B/L. No wheeze/crackles. 
ABDOMEN: +BS, NTND to palpation. 
EXTREMITIES: Non-pitting edema b/l, no tenderness to calf
squeeze. WWP. Symmetric in appearance. Pulses DP/Radial 2+
bilaterally.  
NEUROLOGIC: 
AOx3, completes days of week backwards without difficulty 
CN2-12 grossly intact, except decreased sensation in V1 and V2 
on
L. Moves all extremities. 
Skin: Mild erythema of left V1 and V2 distributions, mildly
tender to palpation, no vesicles. 
 
Pertinent Results:
ADMISSION ___:
===================
___ 08:23PM BLOOD WBC-5.3 RBC-3.89* Hgb-12.3 Hct-34.4 
MCV-88 MCH-31.6 MCHC-35.8 RDW-13.9 RDWSD-44.9 Plt ___
___ 08:23PM BLOOD Neuts-53.9 ___ Monos-19.7* 
Eos-0.9* Baso-0.9 Im ___ AbsNeut-2.83 AbsLymp-1.25 
AbsMono-1.04* AbsEos-0.05 AbsBaso-0.05
___ 08:23PM BLOOD Glucose-106* UreaN-8 Creat-0.4 Na-121* 
K-4.4 Cl-86* HCO3-23 AnGap-12
___ 08:23PM BLOOD Osmolal-251*
___ 10:41PM URINE Color-Straw Appear-Clear Sp ___
___ 10:41PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 10:41PM URINE Osmolal-478
___ 10:41PM URINE Hours-RANDOM Creat-60 Na-90 K-51

PERTINENT ___:
===================
___ 06:30AM BLOOD ALT-24 AST-22 AlkPhos-44 TotBili-0.3
___ 06:30AM BLOOD Albumin-3.9 Calcium-8.6 Phos-3.6 Mg-2.3
___ 06:30AM BLOOD TSH-1.6
___ 06:30AM BLOOD Cortsol-14.6
___ 06:00PM BLOOD Carbamz-<2*

DISCHARGE ___:
===================
___ 06:30AM BLOOD WBC-5.6 RBC-3.91 Hgb-12.0 Hct-36.0 MCV-92 
MCH-30.7 MCHC-33.3 RDW-14.9 RDWSD-50.7* Plt ___
___ 06:30AM BLOOD Glucose-90 UreaN-14 Creat-0.4 Na-138 
K-4.4 Cl-102 HCO3-24 AnGap-12
___ 06:30AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.2

MICROBIOLOGY:
===================
 URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ is a ___ year-old woman with herpetic neuralgia since 
diagnosis of V1-V2 shingles (s/p 7 days valacyclovir treatment 
and prednisone taper), started on oxcarbazepine on ___ with 
dose uptitration over the week due to severe pain symptoms. She 
presented from clinic with hyponatremia likely ___ 
oxcarbazepine. 

ACUTE ISSUES:
===============
#Hypoosmolar Hyponatremia 
Urine electrolytes were consistent with SIADH, likely secondary 
to oxcarbazepine up-titration. The oxcarbazepine was stopped. 
She was kept on a fluid restriction, and serum sodium slowly 
corrected to within normal limits. She was given intermittent 
D5W blouse to prevent overly rapid correction. TSH and AM 
cortisol were within normal limits. 
Discharge sodium: 138, stable for > 36 hours

#Trigeminal neuralgia v. subacute VZV
Patient developed facial pain following left V1, V2 distribution 
of zoster opthalmicus. This was diagnosed by her outpatient 
neurologist as trigeminal neuralgia. Given the time frame of 
about 4 weeks after VZV, subacute VZV is also on the 
differential diagnosis. Her oxcarbazepine was stopped. Pain 
service was consulted, and per their recommendations, she was 
started on Baclofen 5mg TID and her Gabapentin was increased to 
600mg TID.  

#Toxic Metabolic Encephalopathy
Patient presented with slow thought and unsteady gait, likely 
secondary to hyponatremia. During admission, she remained fully 
oriented and alert. However, per her husband, she continued to 
have slow speech and thought process even after her sodium had 
corrected to within normal limits. This may have been secondary 
to up-titrating gabapentin. She also expressed anxiety about 
unpredictable pain and the effect they might have on her work, 
so depressed mood in the setting of new diagnosis and 
unpredictable pain may also contribute to slowed thinking. She 
was evaluated by neurology who noted that these memory problems 
have been ongoing for at least a year. She did well on all 
neurocognitive testing, so there was low concern for 
neurodegenerative disease. They felt she was safe for outpatient 
neurology follow-up.

TRANSITIONAL ISSUES
========================
 Medications: 
[] Oxcarbazepine was discontinued.
[] Gabapentin was up-titrated to 600mg TID.
[] Please monitor mental status, and consider down-titrating or 
stopping gabapentin if concern for ongoing altered mental 
status.
[] Baclofen 5mg TID was started. Consider uptitrating as 
appropriate.
[] TCAs were avoided for now given this episode of hyponatremia, 
however if above neuropathic agents are optimized in dosing and 
do not provide adequate benefit, could consider adding Cymbalta.
[] topical Lidocaine started
[] Please assess for improvement in episodes of pain, and 
whether medications can be tapered off
 
Follow-up: 
[] Patient needs follow up with PCP ___ ___ weeks.
[] Patient needs follow up with neurology in ___ weeks.
[] Patient will need repeat Chem 10 in 1 week. 
[] Please follow up patient's mood and provide support as needed 
given patient's concerns about her pain affecting her job.

Code Status: Full (confirmed)
Emergency contact: ___ (Husband) - ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OXcarbazepine 450 mg PO TID 
2. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
4. Gabapentin 300 mg PO TID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Baclofen 5 mg PO TID 
RX *baclofen 10 mg 0.5 (One half) tablet(s) by mouth Three times 
a day Disp #*30 Tablet Refills:*0 
2.  Capsaicin 0.025% 1 Appl TP TID:PRN facial pain 
RX *capsaicin 0.025 % Apply thin film to areas of pain Three 
times a day Refills:*0 
3.  Lidocaine 5% Ointment 1 Appl TP DAILY apply for facial pain 
RX *lidocaine 5 % Apply thing film to areas of facial pain Daily 
Refills:*0 
4.  Gabapentin 600 mg PO TID 
RX *gabapentin 300 mg 2 capsule(s) by mouth Three times a day 
Disp #*90 Capsule Refills:*0 
5.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
6.  Aspirin 81 mg PO DAILY  
7.Outpatient Lab Work
ICD 10: E22.2
___: Chem ___
Fax to: ___
Fax Number: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hyponatremia 
Herpetic neuralgia
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___ 
___.  

You were admitted to the hospital because your thinking was not 
as clear as usual and the sodium levels in your blood were very 
low. 

 What happened while I was in the hospital?  
- Your blood sodium levels were closely monitored, and we gave 
you fluids through your IV to make sure the sodium levels 
increased at a safe rate.
- Your Trileptal (oxcarbazepine) was stopped, since this is what 
likely caused your blood sodium to be low.
- Your gabapentin dose was increased to 600mg three times a day. 

- You were started a new medicine called Baclofen to help 
prevent pain attacks.
- You were started on two cream medications to apply to your 
forehead for pain.
- You were evaluated by our neurology team, and they felt you 
were safe to continue your workup and treatment in the 
outpatient setting.

What should I do when I go home?  
- Please take all of your medicines as described in this 
discharge paperwork.
- Please have your sodium level checked again within 1 week to 
make sure the level is normal.
- Please follow up with your primary care doctor on ___ as 
scheduled.
- Please follow up with Dr. ___ in neurology in ___ 
weeks, who will continue to make adjustments to your pain 
medications.
- If your thinking feels slow again, you feel confused, you feel 
unsteady on your feet, you have new fevers, or have any other 
symptoms that concern you, please call your primary care doctor. 


 We wish you all the best,  
 Your ___ Team  

 
Followup Instructions:
___